US04962113
2-(1-naphthylcarbamoyloxy)ethanol
Ethylene glycol (3.0 g) was mixed with α-naphthyl isocyanate (8.5 g), and reaction was allowed to proceed at room temperature for 3 hours, then at 50° C. for 2 hours. The reaction mixture was poured into water, which was subjected to extraction with chloroform. The extract was concentrated and subjected to purification by means of a silica gel chromatography(silica gel 400 g, developing solvent:hexane-ethyl acetate, 1:2→1:3).

reactant | Ethylene glycol | 3.0 g | C(CO)O | C2H6O2
reactant | α-naphthyl isocyanate | 8.5 g | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
solvent | water | O | H2O
product | 2-(1-naphthylcarbamoyloxy)ethanol | C1(=CC=CC2=CC=CC=C12)NC(=O)OCCO | C13H13NO3
